US06605423B2
In a 1-1 round-bottomed flask were placed first 55 g of anhydrous sodium acetate, and then 500 ml of anhydrous heptane. To the white suspension formed was added 50 g of octyltrichlorosilane. The reaction medium was left under stirring at ambient temperature for 2 h, and then filtered under argon to remove the precipitate. The filtrate was concentrated to eliminate the heptane, giving 54 g (88% yield) of octyltriacetoxysilane as a colorless oil.

reactant | sodium acetate | 55 g | C(C)(=O)[O-].[Na+]
reactant | octyltrichlorosilane | 50 g | C(CCCCCCC)[Si](Cl)(Cl)Cl | C8H17Cl3Si
solvent | heptane | 500 ml | CCCCCCC | C7H16
product | octyltriacetoxysilane | 54 g, 88% yield | C(CCCCCCC)[Si](OC(C)=O)(OC(C)=O)OC(C)=O | C14H26O6Si
